US05618821
A suspension of methyl β-(6-methoxypyridin-3-yl)acrylate (3 g, 15.5 mmol) and 1 g of 5% Pd/C in 100 ml of ethyl acetate was hydrogenated under hydrogen (50 psi). After hydrogen uptake had ceased, the mixture was filtered through solka floc, the filtrate was concentrated in vacuo to afford 2.7 g (90%) of methyl 3-(6-methoxypyridin-5-yl)propionate.

reactant | methyl β-(6-methoxypyridin-3-yl)acrylate | 15.5 mmol, 3 g | COC1=CC=C(C=N1)C=CC(=O)OC | C10H11NO3
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | methyl 3-(6-methoxypyridin-5-yl)propionate | 2.7 g, 90% | COC1=C(C=CC=N1)CCC(=O)OC | C10H13NO3
